US04187217
p-nitrophenyl ester of tert-butoxycarbonylphenylalanine is reacted with glycine to obtain tert-butoxycarbonylphenylalanylglycine;

reactant | tert-butoxycarbonylphenylalanine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | glycine | NCC(=O)O | C2H5NO2
product | tert-butoxycarbonylphenylalanylglycine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)O | C16H22N2O5
